US07569600B2
A solution of (1,4-dioxa-spiro[4.5]dec-8-ylidene)-acetic acid methyl ester (5.50 g, 25.9 mmol) in 14 mL of dry THF was treated by nitromethane (2.10 mL, 38.9 mmol) followed by a 1M solution of tetrabutylammonium fluoride in THF (26.5 mL, 26.5 mmol). The resulting mixture was stirred at reflux for 20 h under nitrogen. After cooling, the mixture was diluted with water and extracted with three portions of ether. The etheral portions were combined, washed with a 10% aqueous solution of potassium hydrogensulfate, dried over anhydrous Na2SO4 and concentrated. The crude was purified by silica gel column chromatography using a 20% EtOAc:hexanes mixture as eluent to afford (8-Nitromethyl-1,4-dioxa-spiro[4.5]dec-8-yl)-acetic acid methyl ester (5.34 g, 75%) as a colorless oil.

reactant | (1,4-dioxa-spiro[4.5]dec-8-ylidene)-acetic acid methyl ester | 25.9 mmol, 5.50 g | COC(C=C1CCC2(OCCO2)CC1)=O | C11H16O4
reactant | nitromethane | 38.9 mmol, 2.10 mL | [N+](=O)([O-])C | CH3NO2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 26.5 mmol, 26.5 mL | C1CCOC1 | C4H8O
product | (8-Nitromethyl-1,4-dioxa-spiro[4.5]dec-8-yl)-acetic acid methyl ester | 5.34 g, 75% | COC(CC1(CCC2(OCCO2)CC1)C[N+](=O)[O-])=O | C12H19NO6
